US04304728
Methylsulphinylmethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate
A solution of methylthiomethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate (0.36 g) and m-chloroperoxybenzoic acid (0.22 g, 80% pure) in chloroform (5 ml) was stirred for 4 hours at room temperature, filtered, washed with sodium bicarbonate solution, and evaporated. The residue was recrystallised from ethyl acetate-petroleum ether 60°-80° C. to give the title product (mp 159° C.).

reactant | methylthiomethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate | 0.36 g | BrC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)OCSC | C14H11BrO4S
reactant | m-chloroperoxybenzoic acid | 0.22 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | Methylsulphinylmethyl 3-bromo-4-oxo-6-phenyl-4H-pyran-2-carboxylate | BrC1=C(OC(=CC1=O)C1=CC=CC=C1)C(=O)OCS(=O)C | C14H11BrO5S
